US04303666
Diphenyldiselenide (6.2 g.) was stirred in ethanol (50 ml.) under an atmosphere of nitrogen, and sodium borohydride (1.6 g.) was added, followed by a solution of 5-chloro-2-nitroaniline (6.5 g.) in tetrahydrofuran (50 ml.). The mixture was stirred, and boiled under reflux under nitrogen for 10 hours, then was cooled, poured into water (200 ml.) and filtered. The solid product was crystallised from ethanol, to give 5-phenylseleno-2-nitroaniline, m.p. 126° C.

reactant | Diphenyldiselenide | 6.2 g | C1(=CC=CC=C1)[SeH-](=[Se])C1=CC=CC=C1
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | 5-chloro-2-nitroaniline | 6.5 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | water | 200 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-phenylseleno-2-nitroaniline | C1(=CC=CC=C1)[Se]C=1C=CC(=C(N)C1)[N+](=O)[O-] | C12H10N2O2Se
